US07786115B2
To a suspension of 2-(carboxymethyl)-5-methoxybenzoic acid (5.22 g) (synthesised using the procedure in Tetrahedron 1975, 31, 2607-19) in acetone (50 ml) was added acetyl chloride (7.06 ml) and the reaction mixture was stirred at room temperature for 18 hours. The solvent was evaporated and azeotroped with toluene (×3). The resultant solid was triturated with diethyl ether to yield 7-methoxy-1H-isochromene-1,3(4H)-dione as a brown solid (4.36 g); NMR Spectrum: (DMSOd6) 3.84 (s, 3H), 4.20 (s, 2H), 7.36 (m, 2H), 7.50 (s, 1H).

reactant | 2-(carboxymethyl)-5-methoxybenzoic acid | 5.22 g | C(=O)(O)CC1=C(C(=O)O)C=C(C=C1)OC | C10H10O5
reactant | acetyl chloride | 7.06 ml | C(C)(=O)Cl | C2H3ClO
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 7-methoxy-1H-isochromene-1,3(4H)-dione | 4.36 g | COC1=CC=C2CC(OC(C2=C1)=O)=O | C10H8O4
